US04544655
103.8 g of methyl 3-chlorosulfonyl-5-trifluoromethyl-thiophene-2-carboxylate are dissolved in 600 ml of chloroform, 68.05 g of freshly distilled methyl glycinate are added dropwise thereto in a manner such that the temperature does not exceed 30°, the mixture is stirred at room temperature for an additional 0.5 hour and then extracted three times with 200 ml of 1N hydrochloric acid each time. The organic phase is dried over sodium sulfate and evaporated. The oily residue is stirred with 175 ml of diisopropyl ether, and there is obtained methyl 3-[(methoxycarbonylmethyl)sulfamoyl]-5-trifluoromethyl-thiophene-2-carboxylate in the form of colorless crystals which are removed by filtration under suction and washed with diisopropyl ether. The product melts at 76°-78° after recrystallization from diisopropyl ether.

reactant | methyl 3-chlorosulfonyl-5-trifluoromethyl-thiophene-2-carboxylate | 103.8 g | ClS(=O)(=O)C1=C(SC(=C1)C(F)(F)F)C(=O)OC | C7H4ClF3O4S2
reactant | methyl glycinate | NCC(=O)OC | C3H7NO2
solvent | chloroform | 600 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 3-[(methoxycarbonylmethyl)sulfamoyl]-5-trifluoromethyl-thiophene-2-carboxylate | COC(=O)CNS(=O)(=O)C1=C(SC(=C1)C(F)(F)F)C(=O)OC | C10H10F3NO6S2
